US06821967B2
b. 9-[4-(4-(benzoxazol-2-yl)-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
A solution of 0.3 g (0.7 mmol) of 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide, 0.2 g (0.98 mmol) of 2-(piperazin-1-yl)-benzoxazole and 1 ml of triethylamine in 10 ml of tetrahydrofuran is refluxed for 48 hours. The reaction mixture is then poured onto water, extracted twice with dichloromethane and the combined organic phases are dried over sodium sulphate. The product is purified by column chromatography on silica gel (eluant: cyclohexane/ethyl acetate=1:1).

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | 0.7 mmol, 0.3 g | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 2-(piperazin-1-yl)-benzoxazole | 0.98 mmol, 0.2 g | N1(CCNCC1)C=1OC2=C(N1)C=CC=C2 | C11H13N3O
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 9-[4-(4-(benzoxazol-2-yl)-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C=1OC2=C(N1)C=CC=C2)(F)F | C31H31F3N4O2
